US09145407B2
A 1.0 M solution of lithium hexamethyldisilazide in tetrahydrofuran (7.55 mL, 7.55 mmol) was added to a solution of 4-fluoro-2-pyridazin-4-yl-5-(trifluoromethyl)phenol (Preparation 11, 1.30 g, 5.04 mmol) in N,N-dimethylformamide (30 mL). After stirring for 5 minutes, tert-butyl-[(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate (Preparation 4, 2.07 g, 5.04 mmol) was added and the reaction mixture stirred at ambient temperature. After 18 hours, the reaction mixture was diluted with water, neutralized with saturated aqueous ammonium chloride, and extracted with ethyl acetate (×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated onto diatomaceous earth. The residue was purified by automated silica gel flash chromatography (hexanes to ethyl acetate gradient elution) to afford tert-butyl({5-chloro-2-fluoro-4-[4-fluoro-2-pyridazin-4-yl-5-(trifluoromethyl)phenoxy]phenyl}sulfonyl)1,3-thiazol-4-ylcarbamate (1.75 g).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | tetrahydrofuran | 7.55 mmol, 7.55 mL | O1CCCC1 | C4H8O
reactant | 4-fluoro-2-pyridazin-4-yl-5-(trifluoromethyl)phenol | 5.04 mmol, 1.30 g | FC1=CC(=C(C=C1C(F)(F)F)O)C1=CN=NC=C1 | C11H6F4N2O
reactant | tert-butyl-[(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | 5.04 mmol, 2.07 g | C(C)(C)(C)OC(N(C=1N=CSC1)S(=O)(=O)C1=C(C=C(C(=C1)Cl)F)F)=O | C14H13ClF2N2O4S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl({5-chloro-2-fluoro-4-[4-fluoro-2-pyridazin-4-yl-5-(trifluoromethyl)phenoxy]phenyl}sulfonyl)1,3-thiazol-4-ylcarbamate | 1.75 g | C(C)(C)(C)OC(N(C=1N=CSC1)S(=O)(=O)C1=C(C=C(C(=C1)Cl)OC1=C(C=C(C(=C1)C(F)(F)F)F)C1=CN=NC=C1)F)=O | C25H18ClF5N4O5S2
